US05849755
c) 3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanone
28.7 g (0.14 mol) of 5-chloro-2-methoxybenzoyl chloride were introduced into a solution of 33.5 g (0.13 mol) of 3-amino-2,2-dimethyl-7-methoxy-4-chromanone hydrochloride in 150 ml of pyridine at 10° C. After the mixture had been stirred at about 27° C. for three hours, it was introduced into ice/water and extracted twice with methylene chloride. The combined methylene chloride extracts were washed twice with 2N hydrochloric acid and with water and then dried and evaporated, and the residue was recrystallized from ethanol/DMF. The 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanone had a melting point of 174° C.

reactant | 5-chloro-2-methoxybenzoyl chloride | 0.14 mol, 28.7 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
reactant | 3-amino-2,2-dimethyl-7-methoxy-4-chromanone hydrochloride | 0.13 mol, 33.5 g | Cl.NC1C(OC2=CC(=CC=C2C1=O)OC)(C)C
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3-(5-Chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanone | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=CC=C3C2=O)OC)(C)C)C1)OC | C20H20ClNO5
